US08012998B2
1st step: To a stirred suspension of 6-methylnicotinic acid (commercially available) (500 mg, 3.64 mmol) in THF (14 mL) at RT, was added 1,3-dibromo-5,5-dimethylhydantoin (DDH) (1.06 g, 3.71 mmol). Stirring was continued over night and concentrated under vacuo. Column chromatography (SiO2, CH2Cl2/MeOH: 8/2) yielded 410 mg (52%) of 6-bromomethyl-nicotinic acid as a light orange solid. ES-MS m/e: 214.2-216.3 (M+H+).

reactant | 6-methylnicotinic acid | CC1=NC=C(C(=O)O)C=C1 | C7H7NO2
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 3.71 mmol, 1.06 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | 6-bromomethyl-nicotinic acid | 410 mg, 52% | BrCC1=NC=C(C(=O)O)C=C1 | C7H6BrNO2
